US09376422B2
Methyl 5-chloro-3-(cyclopentylamino)-2-methylbenzoate (1.2 g, 4.46 mmol) was dissolved in DMF (12 mL) and cooled to 0° C. NaH (0.21 g, 8.92 mmol) was added after 10 minutes and allyl bromide (1.07 g, 8.9 mmol) was added. The reaction mixture was stirred at room temperature for 4 h and then heated at 80 0° C. for 18 h. The reaction was quenched with ice water and extracted with ethyl acetate. Combined organic layers were dried, concentrated giving crude methyl 3-(allyl(cyclopentyl)amino)-5-chloro-2-methylbenzoate (0.4 g, 29.4%).

reactant | Methyl 5-chloro-3-(cyclopentylamino)-2-methylbenzoate | 4.46 mmol, 1.2 g | ClC=1C=C(C(=C(C(=O)OC)C1)C)NC1CCCC1 | C14H18ClNO2
reactant | NaH | 8.92 mmol, 0.21 g | [H-].[Na+]
reactant | allyl bromide | 8.9 mmol, 1.07 g | C(C=C)Br | C3H5Br
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | methyl 3-(allyl(cyclopentyl)amino)-5-chloro-2-methylbenzoate | 0.4 g, 29.4% | C(C=C)N(C=1C(=C(C(=O)OC)C=C(C1)Cl)C)C1CCCC1 | C17H22ClNO2
